US04801599
2-(Diethoxymethyl)bromobenzene
A mixture of 2-bromobenzaldehyde (33.2 g), triethyl orthoformate (29 g) and powdered ammonium chloride (0.379 g) in ethanol (30 ml) was stirred for eight hours at room temperature. The resulting suspension was filtered and the filtrate evaporated. The resulting yellow oil was distilled at reduced pressure to give the title compound (31 g). b.p. 63° C. 0.3 mm Hg. T.l.c. (Petrol/diethyl ether, 6:1) Rf=0.6.

reactant | 2-bromobenzaldehyde | 33.2 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | triethyl orthoformate | 29 g | C(OCC)(OCC)OCC | C7H16O3
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | ammonium chloride | 0.379 g | [Cl-].[NH4+]
product | 2-(Diethoxymethyl)bromobenzene | 31 g | C(C)OC(C1=C(C=CC=C1)Br)OCC | C11H15BrO2
